US08497376B2
a) 1,5-Dimethyl-3-oxo-8-aza-bicyclo[3.2.1]oct-6-ene-8-carboxylic acid methyl ester
The title compound was prepared from 2,5-dimethyl-pyrrole-1-carboxylic acid methyl ester (U.S. Pat. No. 4,551,540) and 1,1,3,3-tetrabromoacetone utilizing the [4+3] cycloaddition protocol of Kim and Hoffmann (European Journal of Organic Chemistry (2000), (12), 2195-2201). Mass spectrum (ESI, m/z): Calcd. for C11H15NO3, 210.1 (M+H), found 210.0.

reactant | 2,5-dimethyl-pyrrole-1-carboxylic acid methyl ester | COC(=O)N1C(=CC=C1C)C | C8H11NO2
reactant | 1,1,3,3-tetrabromoacetone | BrC(C(=O)C(Br)Br)Br | C3H2Br4O
product | 1,5-Dimethyl-3-oxo-8-aza-bicyclo[3.2.1]oct-6-ene-8-carboxylic acid methyl ester | COC(=O)N1C2(CC(CC1(C=C2)C)=O)C | C11H15NO3
